US08304434B2
Step 5: tert-butyl 4-(1-{[3-(trifluoromethyl)phenyl]thio}ethyl)piperidine-1-carboxylate
To a 250 ml round bottom flask was added tert-butyl 4-{1-[(methylsulfonyl)oxy]ethyl}piperidine-1-carboxylate (11 g, 35.8 mmol), 3-(trifluoromethyl)benzenethiol (7.6 g, 43 mmol), K2CO3 (9.9 g, 72 mmol) and 80 ml dimethylformamide. The reaction mixture was heated at 50° C. for 36 hr under N2, then cooled down to room temperature, 150 ml ether was added. The resulting mixture was sequentially washed with 250 ml water, 100 ml 5% KOH solution and 75 ml brine. The organic layers were dried over sodium sulfate, filtered and concentrated to give 13.7 g crude product. It was used for next step without further purification.

reactant | tert-butyl 4-{1-[(methylsulfonyl)oxy]ethyl}piperidine-1-carboxylate | 35.8 mmol, 11 g | CS(=O)(=O)OC(C)C1CCN(CC1)C(=O)OC(C)(C)C | C13H25NO5S
reactant | 3-(trifluoromethyl)benzenethiol | 43 mmol, 7.6 g | FC(C=1C=C(C=CC1)S)(F)F | C7H5F3S
reactant | K2CO3 | 72 mmol, 9.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | ether | 150 ml | CCOCC | C4H10O
product | tert-butyl 4-(1-{[3-(trifluoromethyl)phenyl]thio}ethyl)piperidine-1-carboxylate | 13.7 g | FC(C=1C=C(C=CC1)SC(C)C1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C19H26F3NO2S
